US07253158B2
1) 5-Hydroxymethyl-pyridine-2-carboxylic acid
A suspension of LiBH4 (1.53 g, 70 mmol) in THF (30 ml) was slowly added to a solution of pyridine-2,5-dicarboxylic acid 5-methyl ester (2.5 g, 14 mmol) in dry THF (30 ml) at 0° C. and under an argon atmosphere. The reaction mixture was stirred for a further 2 h at r.t., then chilled to 0° C. and treated with 2 N HCl (40 ml). The reaction mixture was filtered, concentrated under reduced pressure and crystallized from MeOH: 340 mg;

reactant | LiBH4 | 70 mmol, 1.53 g | [Li+].[BH4-]
reactant | pyridine-2,5-dicarboxylic acid 5-methyl ester | 14 mmol, 2.5 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | HCl | 2 N, 40 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-pyridine-2-carboxylic acid | OCC=1C=CC(=NC1)C(=O)O | C7H7NO3
